US06992087B2
methyl ({2-[(tert-butoxycarbonyl)amino]butanoyl}amino)(cyclopropyl)acetate
Following the procedure for the preparation of methyl {[N-(tert-butoxycarbonyl)-L-alanyl]amino}(cyclopropyl)acetate but substituting N-Boc-alpha-aminobutyric acid and making non-critical variations provided the title compound as a solid: 1H NMR (CDCl3) δ 0.40-0.62, 0.94-0.99, 1.09-1.12, 1.46, 1.63-2.06, 3.77, 4.04, 5.02, 6.54.

reactant | methyl {[N-(tert-butoxycarbonyl)-L-alanyl]amino}(cyclopropyl)acetate | C(C)(C)(C)OC(=O)N[C@@H](C)C(=O)NC(C(=O)OC)C1CC1 | C14H24N2O5
reactant | N-Boc-alpha-aminobutyric acid | C(=O)(OC(C)(C)C)NC(C(=O)O)CC | C9H17NO4
product | methyl ({2-[(tert-butoxycarbonyl)amino]butanoyl}amino)(cyclopropyl)acetate | C(C)(C)(C)OC(=O)NC(C(=O)NC(C(=O)OC)C1CC1)CC | C15H26N2O5
